2155-09-25 07:19:00 Physician Resident Progress Note
Chief Complaint: Hemetemesis
   24 Hour Events:
   Admitted to MICU.  On PPI drip, erythromycin.  Gi and Surgery
   consulted.
 ENDOSCOPY - At [**2155-9-24**] 06:00 PM
   rec'd Versed 2mg and Fentanyl 50mcq, became hypotensive; unable to see
   due to large clot burden in stomach. Also with possible aspiration
   event.  No interventions made.  Per GI, pt will need to be intubated
   for future scopes.
   . Unable to do the scope too much.
   Transfused 3 units PRBCS: Hct fell from 20.5->15.  Transfused an
   additional 3 units PRBCs (for a total of six units), Hct bumped to 29
   then 25.
   Potassium returned this AM at 7.2; ?peaked T's on EKG.  Given
   insulin/D50, calcium gluc, lasix 40IV and kayexalate.
 EKG - At [**2155-9-25**] 06:31 AM
   Allergies:
   Nsaids
   meningitis type
   Last dose of Antibiotics:
   Erythromycin - [**2155-9-25**] 06:56 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-9-24**] 10:00 PM
   Dextrose 50% - [**2155-9-25**] 06:34 AM
   Insulin - Regular - [**2155-9-25**] 06:34 AM
   Furosemide (Lasix) - [**2155-9-25**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain, Nausea, Emesis
   Flowsheet Data as of  [**2155-9-25**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 75 (70 - 87) bpm
   BP: 116/47(64) {80/38(47) - 1,114/57(80)} mmHg
   RR: 23 (23 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.1 kg (admission): 70.8 kg
             Total In:
                                                                  6,843 mL
                                                                    652 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  1,299 mL
                                                                    542 mL
   Blood products:
                                                                  1,544 mL
   Total out:
                                                                    375 mL
                                                                    450 mL
   Urine:
                                                                    375 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,468 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin, pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, +epigastric tenderness, no guarding today
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x4,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   9.1 g/dL
   149 mg/dL
   1.8 mg/dL
   19 mEq/L
   7.3 mEq/L
   77 mg/dL
   113 mEq/L
   141 mEq/L
   25.3 %
   44.9 K/uL
        [image002.jpg]
                             [**2155-9-24**]  05:23 PM
                             [**2155-9-24**]  07:47 PM
                             [**2155-9-25**]  12:04 AM
                             [**2155-9-25**]  03:28 AM
   WBC
   44.9
   Hct
   15.8
   21.1
   29.2
   25.3
   Plt
   152
   Cr
   1.8
   Glucose
   149
   Other labs: PT / PTT / INR:17.7/34.7/1.6, Ca++:7.1 mg/dL, Mg++:1.5
   mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   76M with MDS (transfusion dependent) and h/o GI bleeds due to PUD,
   dieulafoy, angioectasias [**2-15**] XRT presents with hemetemesis.
   1. Hemetemesis: still unclear source
PUD vs  AVMs vs  [**Name (NI) 5302**] all
   of which he has had previously.  Epigastric pain concerning for PUD,
   abd exam improved this AM.   Pain improved but still present this am.
   -PPI gtt IV
   -4 lg bore PIVs
   -active crossmatch of at least 4 units
   -NPO
   -q4 hct, transfuse to goal of 24-26
   -GI following, plan for repeat scope today  -- will discuss with GI
   need for intubation with scope
   -if pain persists and nothing seen on EGD, will need CT to eval for
   etiology of this pain
   -control nausea, pain
   -appreciate surgery input
   -follow up GI recs
   .
   # Hyperkalemia- K= 7.2 this am, No EKG changes. given Calcium gluc,
   insulin/d50, kayexalate, lasix
   -improved with recheck
   -trend q4-6 hours today with Hct
   .
   #ARF: Cr 1.8 this AM from baseline of 0.9.   Likely prerenal in setting
   of massive GIB.
   -volume as above
   -trend
   #HTN- hold antihypertensives, BB.
   .
   #DM: hold oral hypoglycemics as NPO, cover with HISS
   .
   #GOUT: holding  allopurinol while NPO
   .
   #anemia/MDS- on aranesp and transfusion dependent. Goal Hct 24.
   -transfuse to goal of 24
   -continue B6, hydroxyurea once able to take POs again
   .
   #ACCESS: 4 PIVs
   #PPX: pneumoboots, PPI, bowel regmimen not indicated
   ICU Care
   Nutrition: NPO, D5 1/2NS, trend lytes
   Glycemic Control:  Regular insulin sliding scale
   Lines: 2 18gs, a 20g and a 22g PIV
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2155-09-25 09:05:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 y/o M w/MDS and hx GI bleeds, p/w hematemesis and abd pain.
   24 Hour Events:
 ENDOSCOPY - At [**2155-9-24**] 06:00 PM
   rec'd Versed 2mg and Fentanyl 50mcg, became hypotensive. Unable to do
   the scope due to significant amount of blood and clot in stomach as
   well as pt was coughing/gagging.
 EKG - At [**2155-9-25**] 06:31 AM
   Received 3 additional units PRBCs overnight with Hct response to 29,
   now down to 25.  (Total transfusion requirement 6 units PRBCs).
   This AM, K was 7.2.  T waves slightly peaked.  Given calcium, lasix,
   insulin/D50, and kayexalate.
   Allergies:
   Nsaids
   meningitis type
   Last dose of Antibiotics:
   Erythromycin - [**2155-9-25**] 06:56 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2155-9-24**] 10:00 PM
   Dextrose 50% - [**2155-9-25**] 06:34 AM
   Insulin - Regular - [**2155-9-25**] 06:34 AM
   Furosemide (Lasix) - [**2155-9-25**] 06:49 AM
   Other medications:
   insulin sliding scale, morphine prn (hasn't received since last night)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, mildly
   improved from last PM
   Pain: [**7-22**] Severe
   Pain location: abdominal pain
   Flowsheet Data as of  [**2155-9-25**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 77 (70 - 87) bpm
   BP: 128/50(70) {80/38(47) - 128/50 (70) mmHg
   RR: 24 (23 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.1 kg (admission): 70.8 kg
             Total In:
                                                                  6,843 mL
                                                                    708 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  1,299 mL
                                                                    598 mL
   Blood products:
                                                                  1,544 mL
   Total out:
                                                                    375 mL
                                                                    800 mL
   Urine:
                                                                    375 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,468 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   JVP around 5
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: III/VI HSM at apex
   radiating to axilla)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles
   at R base
   Abdominal: Soft, Bowel sounds present, mild TTP in epigastrium but
   improved from yesterday
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   152 K/uL
   149 mg/dL
   1.8 mg/dL
   19 mEq/L
   5.9 mEq/L
   77 mg/dL
   113 mEq/L
   141 mEq/L
   24.2 %
   44.9 K/uL
        [image002.jpg]
                             [**2155-9-24**]  05:23 PM
                             [**2155-9-24**]  07:47 PM
                             [**2155-9-25**]  12:04 AM
                             [**2155-9-25**]  03:28 AM
                             [**2155-9-25**]  07:32 AM
   WBC
   44.9
   Hct
   15.8
   21.1
   29.2
   25.3
   24.2
   Plt
   152
   Cr
   1.8
   Glucose
   149
   Other labs: PT / PTT / INR:17.7/34.7/1.6, Ca++:7.1 mg/dL, Mg++:1.5
   mg/dL, PO4:5.5 mg/dL
   ECG: nsr at 60, LAD, IVCD, TWI in V2 (new), PRWP, mild peaked T waves
   Assessment and Plan
   76 y/o M w/transfusion dependent MDS and GI bleeds of multiple
   etiologies who presents with hematemesis.
   1. Upper GI bleed:  Differential is broad especially given his multiple
   GI bleeds in past, including PUD (highest on differential given his
   severe abd pain), AVMs, Dieulafoy's, gastritis.  Currently
   hemodynamically stable & not having further hematemesis.  Hct
   20->15->29->24 with 6 units.
   - GI following; plan for EGD this AM
   - Surgery following; no indication for OR at this point
   - KUB negative for free air
   - Check Hct q4h.  Crossmatch 4 additional units.
   - PPI infusion
   - check lactate but doubt mesenteric ischemia given how much better he
   looks today
   2. Acute renal failure:  Likely volume depletion in setting of GI
   bleed.  Will volume resuscitate & continue to monitor.
   3. Hyperkalemia:  Likely due to acute renal failure.  No significant
   ECG changes (perhaps mild peaked T's.)  Treated with kayexalate,
   insulin/D50, calcium.
   4. DM:  Insulin sliding scale.
   5.  HTN: Holding given GI bleed.
   6. MDS: transfusion dependent.  Will follow.
   ICU Care
   Nutrition:
   Comments: NPO for EGD
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2155-9-24**] 04:04 PM
   22 Gauge - [**2155-9-24**] 04:05 PM
   18 Gauge - [**2155-9-24**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 min